US07205302B2
4-(5,6-diphenylpyrazin-2-yloxy)-1-butanol
2.39 g of 1-(5,6-diphenylpyrazin-2-yloxy)-4-(2-tetrahydropyranyloxy)butane was dissolved in methanol and 1.53 g of pyridium p-toluenesulfonate was added, and then the mixture was refluxed for 30 minutes. The reaction solution was cooled, poured into ice water while stirring and then extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure to obtain 1.74 g of the desired compound as a colorless crystal having a melting point of 93 to 95° C.

reactant | 1-(5,6-diphenylpyrazin-2-yloxy)-4-(2-tetrahydropyranyloxy)butane | 2.39 g | C1(=CC=CC=C1)C=1N=CC(=NC1C1=CC=CC=C1)OCCCCOC1OCCCC1 | C25H28N2O3
reactant | pyridium p-toluenesulfonate | 1.53 g | C=1C=CC(=CC1)N=NC=2C=CC(=NC2N)N.Cl.CC=1C=CC(=CC1)S(=O)(=O)O
solvent | methanol | CO | CH4O
product | 4-(5,6-diphenylpyrazin-2-yloxy)-1-butanol | 1.74 g | C1(=CC=CC=C1)C=1N=CC(=NC1C1=CC=CC=C1)OCCCCO | C20H20N2O2
